US05436260
E-5-[[2-butyl-3-[[2'-(1H-tetrazol-5-yl)[1,1'-biphenyl]-4-yl]methyl]-3H-imidazol-4-yl]methylene]1-methyl-2,4-imidazolidinedione
To a mixture of the E and Z-isomers of 5-[[2-butyl-3-[[2'-(N-triphenylmethyl-tetrazol-5-yl) [1,1'-biphenyl]-4-yl]methyl]-3H-imidazol-4-yl]methylene]-1-methyl-2,4-imidazolidinedione (0.400 g, 0.552 mmol ) was added methanol (50 mL) and glacial acetic acid (0.2 mL). This white heterogeneous mixture was refluxed for 3 hour in which time a solution formed. The solution was cooled to room temperature and diluted with water (5 mL) and hexanes (50 mL). The aqueous methanol fraction was evaporated in vacuo and then triturated with ethyl acetate. The insoluble residue was collected and determined to be the E-isomer. HPLC eluant 45%(0.1%TFA in H2O) 55% MeCN, RT 1.9[95%] MS (CI) 483 (M+1)

reactant | 5-[[2-butyl-3-[[2'-(N-triphenylmethyl-tetrazol-5-yl) [1,1'-biphenyl]-4-yl]methyl]-3H-imidazol-4-yl]methylene]-1-methyl-2,4-imidazolidinedione | 0.552 mmol, 0.400 g | C(CCC)C1=NC=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C=C1C(NC(N1C)=O)=O | C45H40N8O2
reactant | methanol | 50 mL | CO | CH4O
reactant | acetic acid | 0.2 mL | C(C)(=O)O | C2H4O2
solvent | water | 5 mL | O | H2O
product | E-5-[[2-butyl-3-[[2'-(1H-tetrazol-5-yl)[1,1'-biphenyl]-4-yl]methyl]-3H-imidazol-4-yl]methylene]1-methyl-2,4-imidazolidinedione | C(CCC)C1=NC=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)\C=C\1/C(NC(N1C)=O)=O | C26H26N8O2
